US09403833B2
Step 5: 7-(Trifluoromethoxy)-4,5-dihydro-1H-benzo[b]azepine-2(3H)-thione
To a solution of 7-(trifluoromethoxy)-4,5-dihydro-1H-benzo[b]azepin-2(3H)-one (30 g, 122 mmol) in toluene (2000 ml) was added Lawesson's reagent (29.7 g, 73.5 mmol) and the mixture was stirred at 100° C. for 2 hrs. The resulting mixture was cooled to room temperature and concentrated under reduced pressure. The crude product was purified by column chromatography on silica eluting with 5% ethyl acetate in petroleum ether to give the title compound.

reactant | 7-(trifluoromethoxy)-4,5-dihydro-1H-benzo[b]azepin-2(3H)-one | 122 mmol, 30 g | FC(OC1=CC2=C(NC(CCC2)=O)C=C1)(F)F | C11H10F3NO2
reactant | Lawesson's reagent | 73.5 mmol, 29.7 g | COC=1C=CC(=CC1)P2(=S)SP(=S)(S2)C=3C=CC(=CC3)OC | C14H14O2P2S4
solvent | toluene | 2000 ml | C1(=CC=CC=C1)C | C7H8
product | 7-(Trifluoromethoxy)-4,5-dihydro-1H-benzo[b]azepine-2(3H)-thione | FC(OC1=CC2=C(NC(CCC2)=S)C=C1)(F)F | C11H10F3NOS
